US04151172
(c) Methyl 2-Phosphonopropionate
A solution of 2-phosphonopropionic acid (11.2 g., 0.073 moles) in methanol (150 ml.) is heated at reflux for eighteen hours. The methanol is removed in vacuo. Electrophoresis (0.1 N NH4HCO3, 2000 V, 20 minutes, 7.5 cm) indicates complete conversion to the desired product, methyl 2-phosphonopropionate; yield quantitative.

reactant | 2-phosphonopropionic acid | 0.073 moles, 11.2 g | P(=O)(O)(O)C(C(=O)O)C | C3H7O5P
reactant | methanol | 150 ml | CO | CH4O
product | Methyl 2-Phosphonopropionate | P(=O)(O)(O)C(C(=O)OC)C | C4H9O5P
